US08067447B2
A mixture of methyl 3-(1-(dimethylcarbamoyl)-1H-indol-5-yl)-2,2-dimethyl-3-phenylpropanoate (0.7 g, 2.2 mmol), sodium hydroxide (1M aqueous solution, 18 mL), methanol (5 mL), and dimethylsulfoxide (3 mL) was stirred at 100° C. overnight under argon. The reaction mixture was cooled, washed with diethyl ether (20 mL), acidified with 6M hydrochloric acid aqueous solution, and extracted with ethyl acetate (20 mL). The ethyl acetate extract was washed with brine (20 mL), dried (Na2SO4) and concentrated to give 3-(1H-indol-5-yl)-2,2-dimethyl-3-phenylpropanoic acid (0.58 g, 2.0 mmol, 91% yield) as a syrup and used as such for the subsequent step without further purification.

reactant | methyl 3-(1-(dimethylcarbamoyl)-1H-indol-5-yl)-2,2-dimethyl-3-phenylpropanoate | 2.2 mmol, 0.7 g | CN(C(=O)N1C=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)C1=CC=CC=C1)C | C23H26N2O3
reactant | sodium hydroxide | 1M, 18 mL | [OH-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 3-(1H-indol-5-yl)-2,2-dimethyl-3-phenylpropanoic acid | 2.0 mmol, 0.58 g, 91% yield | N1C=CC2=CC(=CC=C12)C(C(C(=O)O)(C)C)C1=CC=CC=C1 | C19H19NO2
